US05180419
Preparation of 4-Allyloxy-α-isopropyl-α-methyl-1,3-dioxo-2-isoindolineacetonitrile
A mixture of 4-hydroxy-α-isopropyl-α-methyl-1,3-dioxo-2-isoindolineacetonitrile (25.5 g, 0.099 mol), potassium carbonate (75.0 g, 0.543 mol) and acetone is stirred for 4 hours at reflux temperature under a nitrogen atmosphere, cooled to room temperature and treated with allyl bromide (34.1 mL, 0.395 mol). The reaction mixture is stirred overnight at reflux temperature, cooled to room temperature and filtered. The filtrate is concentrated in vacuo, diluted with ether, washed with brine, dried (MgSO4) and concentrated in vacuo to afford the title product as a yellow-orange semi-solid, 26.9 g (91.5% crude yield). The sample is purified by flash chromatography (silica gel, CH2Cl2) to afford a colorless solid, mp 54°-58° C.

reactant | 4-hydroxy-α-isopropyl-α-methyl-1,3-dioxo-2-isoindolineacetonitrile | 0.099 mol, 25.5 g | OC1=C2C(N(C(C2=CC=C1)=O)C(C#N)(C)C(C)C)=O | C14H14N2O3
reactant | potassium carbonate | 0.543 mol, 75.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.395 mol, 34.1 mL | C(C=C)Br | C3H5Br
solvent | acetone | CC(=O)C | C3H6O
product | 4-Allyloxy-α-isopropyl-α-methyl-1,3-dioxo-2-isoindolineacetonitrile | C(C=C)OC1=C2C(N(C(C2=CC=C1)=O)C(C#N)(C)C(C)C)=O | C17H18N2O3
